US07700655B2
(2) 2-Acetoxy-N-{4-[3,5-bis(trifluoromethyl)pyrazol-1-yl]phenyl}-4-chlorobenzamide
Using 2-acetoxy-4-chlorobenzoic acid and 1-(4-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 2-acetoxy-4-chlorobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1)Cl | C9H7ClO4
reactant | 1-(4-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
product | 2-Acetoxy-N-{4-[3,5-bis(trifluoromethyl)pyrazol-1-yl]phenyl}-4-chlorobenzamide | Yield: 74.0% | C(C)(=O)OC1=C(C(=O)NC2=CC=C(C=C2)N2N=C(C=C2C(F)(F)F)C(F)(F)F)C=CC(=C1)Cl | C20H12ClF6N3O3
